US07402581B2
3,5-Dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide (210 mg, 0.57 mmol) was dissolved in a mixture of acetone (4 mL), t-butyl alcohol (2 mL) and water (1 mL). OsO4 (2.5% in t-butyl alcohol, 0.080 mL, 0.006 mmol) was added together with 4-methylmorpholine-4-oxide (296 mg, 2.52 mmol). The solution was stirred under nitrogen at room temperature overnight and then an aqueous solution of NaHSO3 (39%, 6 mL) was added. The mixture was stirred for 30 min, diluted with water (25 mL) and then extracted twice with CH2Cl2. The organic solution was dried over Na2SO4 and then the solvent was evaporated. The residue (256 mg) was dissolved in a mixture of THF (3 mL) and water (1 mL) and to the resultant solution was added sodium periodate (135 mg, 0.63 mmol). The mixture was stirred at room temperature overnight, diluted with water (25 mL) and then extracted twice CH2Cl2. The combined organic solutions were dried over Na2SO4 and then the solvent was evaporated. There was obtained 146 mg (69%) of 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methylbenzamide as an oil. 1H NMR (400 MHz, CDCl3): 2.6-3.9 (cm, 8H), 6.4-7.4 (cm, 7H), 9.8 (s, 1H); LCMS: m/z 369 (M+1)+.

reactant | 3,5-Dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide | 0.57 mmol, 210 mg | ClC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)Cl | C19H18Cl2FNO
reactant | 4-methylmorpholine-4-oxide | 2.52 mmol, 296 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NaHSO3 | 6 mL | OS(=O)[O-].[Na+]
reactant | sodium periodate | 0.63 mmol, 135 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | t-butyl alcohol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | water | 25 mL | O | H2O
catalyst | OsO4 | 0.006 mmol, 0.080 mL | O=[Os](=O)(=O)=O
product | 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methylbenzamide | 146 mg, 69% | ClC=1C=C(C(=O)N(C)C[C@@H](CC=O)C2=CC=C(C=C2)F)C=C(C1)Cl | C18H16Cl2FNO2
